US07728003B2
8-Cyclohexyl-2-(3-imidazol-1-yl-propylamino)-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (4.5 mg, 0.011 mmol) was added to 1.0 mL of 7 N ammonia in methanol. The mixture was stirred in a sealed tube at room temperature overnight. The solvent was evaporated to leave a white solid of 8-cyclohexyl-2-(3-imidazol-1-yl-propylamino)-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid amide (4.0 mg, 95%). 1H NMR (400 MHz, CDCl3/CD3OD (20:1 v/v)) δ (ppm): 9.18 (s), 8.74 (s), 7.15 (br, 1H), 7.02 (br, 1H), 6.92 (br, 1H), 5.02 (m, 1H), 4.06 (t, J=6.6 Hz, 2H), 3.43 (br, 2H), 2.17 (m, 2H), 2.00-1.30 (br, 10H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C20H25N7O2: 396.21 (M+H). Found: 396.2.

reactant | 8-Cyclohexyl-2-(3-imidazol-1-yl-propylamino)-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.011 mmol, 4.5 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NCCCN2C=NC=C2)N(C1)C1CCCCC1)=O | C22H28N6O3
reactant | ammonia | 7 N, 1.0 mL | N | H3N
solvent | methanol | CO | CH4O
product | 8-cyclohexyl-2-(3-imidazol-1-yl-propylamino)-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid amide | 4.0 mg, 95% | C1(CCCCC1)N1C=C(C(C2=C1N=C(N=C2)NCCCN2C=NC=C2)=O)C(=O)N | C20H25N7O2
